US08058045B2
tert-Butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-yloxy)methyl)piperidine-1-carboxylate
Tin (II) chloride dihydrate (745 mg, 3.3 mmol) was added to a solution of crude tert-butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-nitropyridin-4-yloxy)methyl)piperidine-1-carboxylate (301 mg, 0.66 mmol) in ethanol. After heating at 78° C. for 2 hours the mixture was cooled to room temperature and concentrated. The residue was diluted with ethyl acetate and water and the resulting precipitate was removed by filtration. The biphasic filtrate was separated and the aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give a brown solid (250 mg). A portion of the crude material was purified by preparative HPLC to give tert-butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-nitropyridin-4-yloxy)methyl) piperidine-1-carboxylate (16 mg) as a yellow powder.

reactant | Tin (II) chloride dihydrate | 3.3 mmol, 745 mg | O.O.[Sn](Cl)Cl
reactant | tert-butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-nitropyridin-4-yloxy)methyl)piperidine-1-carboxylate | 0.66 mmol, 301 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C21H25N7O5
solvent | ethanol | C(C)O | C2H6O
product | tert-Butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-yloxy)methyl)piperidine-1-carboxylate | 250 mg | NC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)OCC1CCN(CC1)C(=O)OC(C)(C)C | C21H27N7O3
